US06465467B1
2-(2-Methoxyphenoxy)-1-methylethyl 3-(3-methyl-1-piperazinyl)-2-pyrazinyl Ether
The title compound was prepared according to the procedure described in Example 4, Step 2, starting from 2-chloro-3-[2-(2-methoxyphenoxy)-1-methylethoxy]pyrazine* (150 mg, 0.51 mmol) and 2-methylpiperazine (260 mg, 2.6 mmol) with the exception that a final extraction step between EtOAc and 5% aqueous NaOH was carried out. This gave 118 mg (65%) of the title product. HRMS m/z calcd for C19H26N4O3 (M)+ 358.2005, found 358.2018. Anal. (C19H26N4O3) C, H, N.

reactant | 2-chloro-3-[2-(2-methoxyphenoxy)-1-methylethoxy]pyrazine | ClC1=NC=CN=C1OC(COC1=C(C=CC=C1)OC)C | C14H15ClN2O3
reactant | 2-methylpiperazine | 2.6 mmol, 260 mg | CC1NCCNC1 | C5H12N2
product | 2-(2-Methoxyphenoxy)-1-methylethyl 3-(3-methyl-1-piperazinyl)-2-pyrazinyl Ether | CC1CN(CCN1)C=1C(=NC=CN1)OC(COC1=C(C=CC=C1)OC)C | C19H26N4O3
